US05276066
If the preferred raw materials are used in the process described above, in first step of the process n-hexanol was reacted with paraformaldehyde and hexamethylenetetramine to produce tris-hexoxymethanamine. In the second step of the process, phosphorus trichloride was reacted with neopentyl glycol in a mixture of neopentyl glycol and water to produce 5,5-dimethyl 1,3,2-dioxaphosphorinane-2-oxide. In the final step of the process the tris-hexoxymethanamine was reacted with the 5,5-dimethyl 1,3,2-dioxaphosphorinane-2-oxide to produce 5,5,5',5',5",5"-hexamethyl tris(1,3,2-dioxaphosphorinanemethan) amine 2,2',2"-trioxide.

reactant | n-hexanol | C(CCCCC)O | C6H14O
reactant | paraformaldehyde | C=O | CH2O
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
product | tris-hexoxymethanamine | C(CCCCC)OC(N)(OCCCCCC)OCCCCCC | C19H41NO3
